US03953604
A solution of 2,6-dihydroxyacetophenone (15.2 g) and o-cresylglycidyl ether (16.4 g) in 2-ethoxyethanol (75 ml) containing benzyltrimethylammonium hydroxide solution (10 drops; 40%) was heated under reflux for 48 hours. Following removal of the 2-ethoxyethanol under reduced pressure, the resulting solid was washed with ether to give 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-o-cresyloxypropane (19.2 g) as a cream solid, m.p. 101°-102.5° C.

reactant | 2,6-dihydroxyacetophenone | 15.2 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | o-cresylglycidyl ether | 16.4 g | C=1(C(=CC=CC1)C)OCC1CO1 | C10H12O2
solvent | 2-ethoxyethanol | 75 ml | C(C)OCCO | C4H10O2
catalyst | benzyltrimethylammonium hydroxide | 10 drops | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-o-cresyloxypropane | 19.2 g | C(C)(=O)C1=C(OCC(COC2=C(C=CC=C2)C)O)C=CC=C1O | C18H20O5
